US06136831
The procedure of Example 9 was repeated using 1-(6-fluorobenzoxazol-2-yl)-4,4,4-trifluorobutane-1,3-dione and 4-methylsulfonylphenylhydrazine hydrochloride as the starting materials to obtain 6-fluoro-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]benzoxazole.

reactant | 1-(6-fluorobenzoxazol-2-yl)-4,4,4-trifluorobutane-1,3-dione | FC1=CC2=C(N=C(O2)C(CC(C(F)(F)F)=O)=O)C=C1 | C11H5F4NO3
reactant | 4-methylsulfonylphenylhydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 6-fluoro-2-[1-(4-methylsulfonylphenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]benzoxazole | FC1=CC2=C(N=C(O2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(F)(F)F)C=C1 | C18H11F4N3O3S
